US09340544B2
N-Benzo[1,3]dioxol-5-yl-formamide
Was prepared according to Example 2 from 3,4-(methylenedioxy)aniline and formic acid.

reactant | 3,4-(methylenedioxy)aniline | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | formic acid | C(=O)O | CH2O2
product | N-Benzo[1,3]dioxol-5-yl-formamide | O1COC2=C1C=CC(=C2)NC=O | C8H7NO3
